US09328110B2
A solution of N4-[4-(tert-butyldimethylsilanyloxy)butyl]quinoline-3,4-diamine (62.9 g, 182 mmol) and trimethyl orthovalerate (45.2 g, 278 mmol) in toluene (200 mL) was heated at reflux for 2 hours and then concentrated under reduced pressure to provide 2-butyl-1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline as an oil that was used directly in the next step without further purification.

reactant | N4-[4-(tert-butyldimethylsilanyloxy)butyl]quinoline-3,4-diamine | 182 mmol, 62.9 g | [Si](C)(C)(C(C)(C)C)OCCCCNC1=C(C=NC2=CC=CC=C12)N | C19H31N3OSi
reactant | trimethyl orthovalerate | 278 mmol, 45.2 g | C(CCCC)(OC)(OC)OC | C8H18O3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-butyl-1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCO[Si](C)(C)C(C)(C)C | C24H37N3OSi
